US05190973
2a) (1S,5R,6R,7R)-6-[(E)-(4RS)-3-Oxo-4-methyl-1-nonen-7-ynyl]-7-benzoyloxy-2-oxabicyclo-[3.3.0]octan-3-one
A solution of 7.56 g of dimethyl-2-oxo-3 -methyl-6-octynylphosphate in 60 ml of dimethoxyethane is to a suspension of 1.33 g of sodium hydride (55% strength in oil) in 65 ml of dimethoxyethane at room temperature. Then the solution is agitated for 30 minutes at room temperature and cooled to -30° C. Subsequently, at -20° C., a solution of 7.66 g of (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one in 84 ml of dimethoxyethane is added thereto and the mixture is stirred for another 2 hours at room temperature. The crude product is isolated analogously to Example (1a), thus obtaining 12.95 g of the title compound as an oil.

reactant | sodium hydride | 1.33 g | [H-].[Na+]
reactant | (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 7.66 g | C(=O)[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C15H14O5
reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 65 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 84 ml | C(OC)COC | C4H10O2
product | (1S,5R,6R,7R)-6-[(E)-(4RS)-3-Oxo-4-methyl-1-nonen-7-ynyl]-7-benzoyloxy-2-oxabicyclo-[3.3.0]octan-3-one | 12.95 g | O=C(/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C(CCC#CC)C | C24H26O5
